US04451463
Cyanamide (1.05 g.) was added to potassium t-butoxide (2.8 g.) in DMF (10 ml.) with stirring to produce a fine suspension of potassium cyanamide. To this was added 4-chloro-2-methylthiopyrimidine (4 g.) and the mixture stirred at ambient temperature for 17 hours. The DMF was evaporated in vacuo and the residue suspended in water (20 ml.), the pH adjusted to 11 with dilute aqueous sodium hydroxide and the mixture extracted with EtOAc (2×10 ml.). The aqueous layer was separated, acidified to pH 3 with dilute hydrochloric acid and the precipitate collected, washed with water and dried to give 4-cyanoamino-2-methylthiopyrimidine, m.p. 189-191 (decomp.).

reactant | Cyanamide | 1.05 g | N#CN | CH2N2
reactant | potassium t-butoxide | 2.8 g | CC(C)([O-])C.[K+]
reactant | potassium cyanamide | N#CN.[K]
reactant | 4-chloro-2-methylthiopyrimidine | 4 g | ClC1=NC(=NC=C1)SC | C5H5ClN2S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-cyanoamino-2-methylthiopyrimidine | C(#N)NC1=NC(=NC=C1)SC | C6H6N4S
